* source INA597 TEST CIRCUIT
C_CL         0 OUT  15p  TC=0,0 
R_RL         0 OUT  10k TC=0,0 
V_Vcc         N12680 0 18Vdc
V_Vee         N13070 0 -18Vdc
V_VIN         N13463 0  AC 0
+SIN 0 100m 1k 0 0 0
X_U1         N13463 0 N12680 N13070 OUT OUT 0 INA597 
